US06660727B1
2-(2-fluorophenyl)-2-phenyl-2,14-dihydro-[1]benzothieno[3,2-f]indeno[1,2-h]chromene
2-(2,4-dimethylphenyl)-2-phenyl-2,14-dihydro-[1]benzothieno[3,2-f]indeno[1,2-h]chromene, 2-(2-fluorophenyl)-2-(4-methoxyphenyl)-2,14-dihydro-[1]benzothieno[3,2-f]indeno[1,2-h]chromene,

reactant | 2-(2,4-dimethylphenyl)-2-phenyl-2,14-dihydro-[1]benzothieno[3,2-f]indeno[1,2-h]chromene | CC1=C(C=CC(=C1)C)C1(C=CC2=CC3=C(C4=C(C=5C=CCOC35)C3=C(S4)C=CC=C3)C2=C1)C1=CC=CC=C1 | C36H26OS
reactant | 2-(2-fluorophenyl)-2-(4-methoxyphenyl)-2,14-dihydro-[1]benzothieno[3,2-f]indeno[1,2-h]chromene | FC1=C(C=CC=C1)C1(C=CC2=CC3=C(C4=C(C=5C=CCOC35)C3=C(S4)C=CC=C3)C2=C1)C1=CC=C(C=C1)OC | C35H23FO2S
product | 2-(2-fluorophenyl)-2-phenyl-2,14-dihydro-[1]benzothieno[3,2-f]indeno[1,2-h]chromene | FC1=C(C=CC=C1)C1(C=CC2=CC3=C(C4=C(C=5C=CCOC35)C3=C(S4)C=CC=C3)C2=C1)C1=CC=CC=C1 | C34H21FOS
